US08217032B2
1-(2-{4-[2-(3-Fluorophenyl)-6-methoxy-naphthalen-1-ylmethyl]-phenoxy}-ethyl)-piperidine
Charge a flask with trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-naphthalen-2-yl ester (2.0 g, 3.82 mmol), 3-fluorophenyl boronic acid (1.07 g, 7.64 mmol), trans-dichlorobis(triphenylphosphine)palladium II (536 mg, 0.76 mmol) and cesium fluoride (5.2 g, 34.4 mmol) along with 100 mL degassed acetonitrile and heat at 85° C. for 4 hours or until all the starting triflate is consumed. Cool the reaction, filter and purify on an SCX column eluting with 2N ammonia/methanol. The crude yield is 1.5 g (83%). Further purify the crude material on a silica column, eluting with 3% methanol/methylene chloride to give 1.1 g of the title compound (63%): 1H-NMR (CDCl3, 400 MHz) δ 7.81 (d, J=9.6 Hz, 1H); 7.73 (d, J=8.4 Hz, 1H); 7.39 (d, J=8.4 Hz, 1H); 7.28-7.25 (m, 1H); 7.19 (d, J=2.4 Hz, 1H); 7.11-7.06 (m, 2H); 7.04-7.01 (m, 2H); 6.88 (d, J=9.2 Hz, 2H); 6.75 (dd, J=6.4, 2.4 Hz, 2H); 4.34 (s, 2H); 4.07 (t, J=6.0 Hz, 2H); 3.93 (s, 3H); 2.81 (t, J=6.0 Hz, 2H); 2.57-2.57 (m, 4H); 1.67-1.61 (m, 4H); 1.48-1.46 (m, 2H).

reactant | trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-naphthalen-2-yl ester | 3.82 mmol, 2.0 g | COC=1C=C2C=CC(=C(C2=CC1)CC1=CC=C(C=C1)OCCN1CCCCC1)OS(=O)(=O)C(F)(F)F | C26H28F3NO5S
reactant | 3-fluorophenyl boronic acid | 7.64 mmol, 1.07 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | cesium fluoride | 34.4 mmol, 5.2 g | [F-].[Cs+]
catalyst | trans-dichlorobis(triphenylphosphine)palladium | 0.76 mmol, 536 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(2-{4-[2-(3-Fluorophenyl)-6-methoxy-naphthalen-1-ylmethyl]-phenoxy}-ethyl)-piperidine | 1.1 g, 63% | FC=1C=C(C=CC1)C1=C(C2=CC=C(C=C2C=C1)OC)CC1=CC=C(OCCN2CCCCC2)C=C1 | C31H32FNO2
